US04256898
A 13.55 g. (50 mM) trans-3-amino-4-hydroxycyclopentene toluenesulfonate is dissolved in 75 ml. of water. The solution treated with 10.6 g. (10.0 mM) of sodium carbonate, cooled in an ice bath, and treated dropwise with 10.6 g. (50 mM) of trichloroethylchloroformate while stirring vigorously. After 75 min. the reaction is partitioned between water and methylene chloride. The aqueous layer is separated and extracted two times more with methylene chloride. The combined methylene chloride layer is dried over sodium sulfate and concentrated in vacuo. Crystals of trans-3-amino-4-hydroxy-cyclopentene-N-trichloroethyl urethane are formed during the concentration. These are collected three times, each time rinsing the crystals with ether crop 1, 6.12 g. m.p. 105.5°-106°; crop 2, 4.36 g., m.p. 105-106; crop 3, 1.28 g., m.p. 104-105°.

reactant | trans-3-amino-4-hydroxycyclopentene toluenesulfonate | 50 mM | C=1(C(=CC=CC1)S(=O)(=O)O)C.N[C@@H]1C=CC[C@H]1O
reactant | sodium carbonate | 10.0 mM | C([O-])([O-])=O.[Na+].[Na+]
reactant | trichloroethylchloroformate | 50 mM | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | water | O | H2O
product | trans-3-amino-4-hydroxy-cyclopentene N-trichloroethyl urethane | N[C@@H]1C=CC[C@H]1O.ClC(CNC(=O)OCC)(Cl)Cl | InChI=1S/C5H8Cl3NO2.C5H9NO/c1-2-11-4(10)9-3-5(6,7)8;6-4-2-1-3-5(4)7/h2-3H2,1H3,(H,9,10);1-2,4-5,7H,3,6H2/t;4-,5-/m.1/s1
